US04898874
7-(Bromomethyl)-3-(4-bromophenyl)-2,1-benzisoxazole
A mixture of 6.4 g (0.0222 mole) of (4-bromophenyl)-7-methyl-2,1-benzisoxazole, 4.0 g (0.0225 mole) of N-bromosuccinimide and 0.1 g of dibenzoyl peroxide in 250 ml of carbon tetrachloride was heated at reflux for 3 hr under flood light illumination and an argon atmosphere, and filtered while still hot. The filtrate was washed twice with 200 ml portions of 10% sodium bicarbonate solution and twice with 200 ml portions of water and dried over sodium sulfate. The sodium sulfate was removed by filtration and the filtrate was concentrated under reduced pressure to a solid residue. The solid was recrystallized from 2-propanol to give 5.9 g (73%) of fluffy yellow crystals, m.p. 159°-161° C.

reactant | (4-bromophenyl)-7-methyl-2,1-benzisoxazole | 0.0222 mole, 6.4 g | BrC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2C | C14H10BrNO
reactant | N-bromosuccinimide | 0.0225 mole, 4.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 7-(Bromomethyl)-3-(4-bromophenyl)-2,1-benzisoxazole | 5.9 g, 73% | BrCC1=CC=CC2=C(ON=C21)C2=CC=C(C=C2)Br | C14H9Br2NO
